US04305945
S-Methylisothiourea is reacted with 5-aminopentanol and sodium hydride in tetrahydrofuran to give O-(5-aminopentyl)isourea, which is reacted with 2-nitroamino-5-(6-methyl-3-pyridylmethyl)-4-pyrimidone in refluxing ethanol to give 2-[5-(O-isoureido)pentylamino]-5-(6-methyl-3-pyridylmethyl)-4-pyrimidone.

reactant | S-Methylisothiourea | CSC(N)=N | C2H6N2S
reactant | 5-aminopentanol | NCCCCCO | C5H13NO
reactant | sodium hydride | [H-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | O-(5-aminopentyl)isourea | NCCCCCOC(N)=N | C6H15N3O
